US07851473B2
(2) N-(6-Chloroimidazo[1,2-b]pyridazin-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (6-chloroimidazo[1,2-b]pyridazin-2-yl)carbamate (700 mg, 2.04 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (456 mg, 1.85 mmol) and diisopropylethylamine (0.355 ml, 2.04 mmol) in dimethylsulfoxide (6.2 ml) was stirred at 70° C. for 1 day. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was added to the residue, and a solid was separated by filtration, which was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 380 mg (42.3%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl (6-chloroimidazo[1,2-b]pyridazin-2-yl)carbamate | 2.04 mmol, 700 mg | ClC=1C=CC=2N(N1)C=C(N2)NC(OCC(Cl)(Cl)Cl)=O | C9H6Cl4N4O2
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.85 mmol, 456 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 2.04 mmol, 0.355 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 6.2 ml | CS(=O)C | C2H6OS
product | N-(6-Chloroimidazo[1,2-b]pyridazin-2-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 380 mg, 42.3% | ClC=1C=CC=2N(N1)C=C(N2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2 | C19H17ClN8OS
